US05185363
4-(2-Phenylethyl)benzaldehyde is prepared by catalytic hydrogenation of 4-formylstilbene over 20% palladium on carbon in methanol.

reactant | 4-formylstilbene | C(=O)C1=CC=C(C=C1)C=CC1=CC=CC=C1 | C15H12O
catalyst | palladium on carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 4-(2-Phenylethyl)benzaldehyde | C1(=CC=CC=C1)CCC1=CC=C(C=O)C=C1 | C15H14O
